US04036872
7-[5-(3-Hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]heptanoic acid (0.24 g.) was diluted with hexamethylphosphotriamide (1.8 ml.) and treated with aqueous sodium hydroxide solution (25% w/v; 0.163 ml.). After stirring for two hours at room temperature, methyl iodide (0.177 ml.) was added and stirring continued for a further 24 hours. The reaction mixture was extracted twice with diethyl ether and the combined ethereal extracts were washed twice with water and dried over anhydrous sodium sulphate. Evaporation gave crude methyl 7-[5-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]heptanoate (0.17 g.) as the residue. This was purified by preparative thin-layer chromatography on silica gel, using mixture of toluene, dioxan and acetic acid (65:15:1 by volume) as eluant, to give methyl 7-[5-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]-heptanoate (30 mg.). Elemental analysis: found: C, 68.3; H, 10.1%; C21H36O5 requires: C, 68.5; H, 9.9%. N.M.R. (approximately 10% solution in deuterochloroform): triplet at 1.2δ (J=7 cycles/sec.), singlet at 1.3δ, multiplets at 1.0-2.0δ, 2.0-2.5δ, 3.2-3.75δ, singlet at 3.6δ, and multiplet at 5.6-5.8δ.

reactant | 7-[5-(3-Hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]heptanoic acid | 0.24 g | OC(C=CC1CCC(C1CCCCCCC(=O)O)=O)(CCOCC)C | C20H34O5
reactant | sodium hydroxide | 0.163 ml | [OH-].[Na+]
reactant | methyl iodide | 0.177 ml | CI | CH3I
solvent | hexamethylphosphotriamide | 1.8 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | methyl 7-[5-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]-heptanoate | 30 mg | OC(C=CC1CCC(C1CCCCCCC(=O)OC)=O)(CCOCC)C | C21H36O5
